Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Bleeding from dialysis site
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is a ___ male with history of ITP,
ESRD on HD, Glaucoma, and obstructive uropathy, who presented
initially to ___ with persistent oozing from dialysis
catheter since exchange ___, status post drainage of
hematoma in OSH ED, transferred to ___ for hematology
consultation. No other complaints. His HD catheter was exchanged
because the catheter was blocked per ___ radiology notes. 

In the ED VS on presentation:
0 |98.5 |55 |116/49 |17 |99% RA 
Exam with persistent mild oozing, soaking through dressings 
every
2 hours.
.
Labs notable for Hgb 9.6, platelet count 29 (18 at ___,
Cl 113, and Cr 2.1
.
Hematology consulted; recommended increasing prednisone to 
1mg/kg
(90mg)
.
In the ED he was given prednisone 90 mg and tamsulosin 0.4 mg/
.
At OSH: Hgb = 10.4 at 1139 AM
.
Of note he was recently admitted to ___ from ___
to ___ for acute on chronic renal failure. He was 
found
to have R eye pain and redness for the past ___ days which
improved with eye drops. He was very weak and unable to get out
of bed. He had decreased po intake along with n/v with 
occasional
loose stool. He presented to the hospital with a creatinine of 
25
up from a baseline of 1.5 ___ years ago. Previous ___ was
negative for vasculitis and multiple myeloma.  He was started on
HD with clearance of encephalopathy and volume overload. Per 
BID-
Mlton D/c summary he still makes urine. Initial HD through fem
line until ___. Tunnel line placed on ___. He was started on
MWF HD at present through right TLC.  His renal disease was
thought to be multifactorial in etiology from a pre-renal cause
and hypertensive nephrosclerosis and He was anemic with Hgb = 
6.8
without obvious bleeding and negative hemolysis labs. He was
discharged to Care One in ___. At the ___ he has not been
walking. His Hgb on ___ was 9.9. He was discharged on a
prednisone taper over 4 weeks from 40 to 5 mg. 
ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 
 
Past Medical History:
Tendon rupture, nontraumatic, quadriceps 
  Better eye: profound impairment, lesser eye: near-total
impairment 
 Legal blindness 
 Capsular glaucoma of both eyes with pseudoexfoliation of lens,
severe stage 
  Amnesia 
  Urinary retention due to benign prostatic hyperplasia 
  Acute renal failure (ARF) 
  Altered mental status, unspecified 
  Advance directive discussed with patient 
  Acute cystitis without hematuria 
  Combined form of senile cataract of both eyes 

 
Social History:
___
Family History:
His mother died in a nursing home at ___. She had heart failure. 
 
Physical Exam:
Vitals reveiwed and found to be stable
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Clear to auscultation
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
Normal external genitalia
MSK: ___ strength in RLE x years per patient, ___ strength in 
LLE
2+ edema b/l
LDPP 2+
R DPP 1+
SKIN:  Per RN deep tissue injury present on L heel
NEURO: Alert, oriented 3, face symmetric, gaze conjugate with
EOMI, speech fluent, moves all limbs, sensation to light touch
grossly intact throughout. ___ word recall. Able to do MOYB
fluently. 
PSYCH: pleasant, appropriate affect

Discharge:
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Mild R sided facial droop. Ears and nose without visible
erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: L lower lobe crackles but otherwise clear 
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
Normal external genitalia
MSK: ___ strength in RLE x years per patient, ___ strength in 
LLE
2+ edema b/l
LDPP 2+
R DPP 1+
SKIN:  Per RN deep tissue injury present on L heel
NEURO: Alert, oriented 3, face symmetric, gaze conjugate with
EOMI, speech fluent, moves all limbs, sensation to light touch
grossly intact throughout. ___ word recall. Able to do MOYB
fluently. Mild R sided facial droop.
PSYCH: pleasant, appropriate affect
ACCESS: crusted old blood surrounding HD line site, no active 
bleeding
 
Pertinent Results:
Admission:
___ 07:09AM BLOOD WBC-8.9 RBC-3.62* Hgb-10.7* Hct-35.1* 
MCV-97 MCH-29.6 MCHC-30.5* RDW-21.9* RDWSD-77.4* Plt Ct-68*
___ 07:09AM BLOOD Plt Ct-68*
___ 06:17PM BLOOD Neuts-91.9* Lymphs-4.2* Monos-3.0* 
Eos-0.0* Baso-0.0 NRBC-0.4* Im ___ AbsNeut-5.19 
AbsLymp-0.24* AbsMono-0.17* AbsEos-0.00* AbsBaso-0.00*
___ 09:20AM BLOOD ___ PTT-26.0 ___
___ 07:09AM BLOOD Glucose-76 UreaN-46* Creat-2.5* Na-141 
K-4.1 Cl-102 HCO3-27 AnGap-12

ECHO ___
Echocardiography to rule out uremic pericarditis, showed 1.
Normal aortic valve no AI 2. No mitral valve mild MR3. Normal
chamber ___ 4. RV not dilated moderately hypokinetic free
wall 5. Moderate concentric LVH 6. Mild global hypokinesis
estimated ejection fraction of 45% 7. Moderate-severe pulmonary
hypertension estimated PA systolic pressure 51 mm clinical
correlation is suggested.

Discharge:

___ 07:09AM BLOOD WBC-8.9 RBC-3.62* Hgb-10.7* Hct-35.1* 
MCV-97 MCH-29.6 MCHC-30.5* RDW-21.9* RDWSD-77.4*    Plt Ct-68*
___ 06:17PM BLOOD Neuts-91.9* Lymphs-4.2* Monos-3.0* 
Eos-0.0* Baso-0.0 NRBC-0.4* Im ___ AbsNeut-5.19 
AbsLymp-0.24* AbsMono-0.17* AbsEos-0.00* AbsBaso-0.00*
___ 07:09AM BLOOD Plt Ct-68*
___ 09:20AM BLOOD ___ PTT-26.0 ___
___ 07:09AM BLOOD Glucose-76 UreaN-46* Creat-2.5* Na-141 
K-4.1 Cl-102 HCO3-27 AnGap-12
___ 07:09AM BLOOD Calcium-8.4 Phos-2.9 Mg-1.8
___ 09:20AM BLOOD Albumin-3.0* Calcium-8.0* Phos-3.3 Mg-1.6

 
Brief Hospital Course:
Mr. ___ is a ___ male with a h/o ESRD on HD (started 
___, BPH, systolic dysfunction, glaucoma/cataract, 
thrombocytopenia believed to be due to ITP (___) who was 
recently admitted to ___ ___ - ___ for 
initiation
of HD who was transferred from ___ for low platelets.

ACUTE/ACTIVE PROBLEMS:
#Suspect ITP
Per the pt's wife, he did not have a previous history of low 
platelets; it was first diagnosed at ___ in ___. ITP 
was suspected there and he was started on a prednisone taper 
(40mg --> 20mg --> 10mg --> 5mg, each for 1 week) and the pt was
taking 20 mg at the time of his admission here. This may have 
been too rapid a taper, which may have caused the platelets to 
decrease again. On admission, his platelets were 29K (from 62K 
on ___ at the time of discharge). Heme/Onc was consulted. Pt 
was started on high dose dexamethasone 40 mg daily for planned 5 
day burst (end date ___ with close heme/onc follow up this 
week at which point they will determine if he needs further 
taper.
.
# ACUTE BLOOD LOSS ANEMIA
# BLEEDING AT HD CATHETER
His bleeding is due to low platelets whose function is 
compromised by uremia. He did not require a transfusion. 
.
ESRD, newly initiated on HD in ___
ESR thought to be secondary to HTN and pre-renal component 
during last admission. He will continue HD ___. Pt had large 
volume proteinuria though and elevated light
chains. Nephrology followed the patient. 
.
CHRONIC/STABLE PROBLEMS:
#HTN
CHRONIC HF WITH REDUCED EF = 45%. 
He appeared euvolemic. Continue Toprol
.
#BPH:
- continue tamsulosin
.
#LEGALLY BLIND- GLAUCOMA
- continue eye drops

Transitional Issues:
[] Heme/onc department to call patient/family to schedule 
appointment with them. He will need repeat CBC at that time to 
determine if further steroids taper is needed.
[] End date of dexamethasone is ___.

More than 30 minutes were spent preparing this discharge.
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Calcium Acetate 667 mg PO TID W/MEALS 
2. Metoprolol Succinate XL 50 mg PO DAILY 
3. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
4. Pilocarpine 4% 1 DROP BOTH EYES Q6H 
5. PredniSONE 20 mg PO DAILY 
6. Timolol Maleate 0.5% 1 DROP BOTH EYES BID 
7. Dorzolamide 2% Ophth. Soln. 1 DROP BOTH EYES BID 
8. Tamsulosin 0.4 mg PO QHS 

 
Discharge Medications:
1.  Dexamethasone 40 mg PO DAILY Duration: 2 Days 
end date ___  
2.  Docusate Sodium 100 mg PO BID  
3.  Pantoprazole 40 mg PO Q24H Duration: 2 Days 
Should only be on this while on steroids  
4.  Senna 8.6 mg PO BID:PRN Constipation - First Line  
5.  Calcium Acetate 667 mg PO TID W/MEALS  
6.  Dorzolamide 2% Ophth. Soln. 1 DROP BOTH EYES BID  
7.  Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS  
8.  Metoprolol Succinate XL 50 mg PO DAILY  
9.  Pilocarpine 4% 1 DROP BOTH EYES Q6H  
10.  Tamsulosin 0.4 mg PO QHS  
11.  Timolol Maleate 0.5% 1 DROP BOTH EYES BID  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
Idiopathic Thrombocytopenic Purpura
ESRD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

You presented with oozing of blood from your catheter site. You 
were found to have low platelets. You were seen by the 
hematology team and were started on steroids which caused 
significant improvement in your platelets. Take your medicines 
as prescribed and follow up with your physicians as recommended. 


Your ___ Team
 
Followup Instructions:
___